US08304419B2
Step A: 3-chloro-5-[(2,6-difluoro-3-methylphenyl)oxy]benzonitrile
A 1M solution KOtBu in THF (4.41 mL, 4.41 mmol) was added to a solution of 2,6-difluoro-3-methylphenol (3 g, 20.82 mmol) in DMSO (10 mL) at 0° C. under an atmosphere of nitrogen. After 10 min, 3-chloro-5-fluorobenzonitrile (3.24 g, 20.82 mmol) and 18-CROWN-6 (0.550 g, 2.082 mmol) were added and the solution was heated to 135° C. After 6 h, the brown solution was cooled to RT and water (100 mL) and ethyl acetate (150 mL) were added. The organic layer was separated, washed with water (2×150 mL), brine (150 mL), dried over MgSO4, filtered and concentrated. The residue was purfied on silica gel (hexanes/ethyl acetate) to give the title compound (4.05 g, 70%) as a white solid (N4011-11-100). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.36 (t, 1H), 7.20 (t, 1H), 7.05-7.14 (m, 2H), 6.93-7.00 (m, 1H), 2.31 (s, 3H).

reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | THF | 4.41 mmol, 4.41 mL | C1CCOC1 | C4H8O
reactant | 2,6-difluoro-3-methylphenol | 20.82 mmol, 3 g | FC1=C(C(=CC=C1C)F)O | C7H6F2O
reactant | 3-chloro-5-fluorobenzonitrile | 20.82 mmol, 3.24 g | ClC=1C=C(C#N)C=C(C1)F | C7H3ClFN
reactant | 18-CROWN-6 | 2.082 mmol, 0.550 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
product | 3-chloro-5-[(2,6-difluoro-3-methylphenyl)oxy]benzonitrile | 4.05 g, 70% | ClC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1F)C)F | C14H8ClF2NO
